US08624034B2
Step A) (2R)-4-[5-Fluoro-4-(3-fluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
Pd Encat™ (580 mg, 0.17 mmol) was added to a mixture of potassium carbonate (723 mg, 5.2 mmol), (3-fluoro-4-methoxyphenyl)boronic acid (318 mg, 2.1 mmol), and (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide, T3, (900 mg, 1.7 mmol) in 1,4-dioxane:water (5:1, 24 mL). The reaction was heated to 80° C. and allowed to stir at this temperature overnight. The reaction was filtered through a pad of celite, which was washed with methanol (250 mL). The filtrate was concentrated under reduced pressure, and the resulting crude material was purified via flash chromatography using an eluent of EtOAc in heptanes (20-100%), then 10% methanol in EtOAc to provide the title compound as a light tan residue (800 mg, 99%). MS (LCMS) m/z 495.1 (M−1).

reactant | potassium carbonate | 5.2 mmol, 723 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3-fluoro-4-methoxyphenyl)boronic acid | 2.1 mmol, 318 mg | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
reactant | (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)I | C16H22FIN2O6S
solvent | 1,4-dioxane water | 24 mL | O1CCOCC1.O
catalyst | Pd | [Pd] | Pd
product | (2R)-4-[5-Fluoro-4-(3-fluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)C1=CC(=C(C=C1)OC)F | C23H28F2N2O7S
